US06316494B1
(+,−) cis 7-Hydroxy-4-[4-(morpholinoethyloxy)-phenyl]-3-phenyl-chroman
(+,−) cis 7-Benzyloxy-4-[4-(morpholinoethyloxy)-phenyl]-3-phenyl-chroman (139 mg, 0.27 mmol) was dissolved in a solution of 1% hydrochloride in ethanol (5 ml). The solution was added to a 10% palladium on carbon catalyst, and hydrogenated (1 atm.) overnight. The reaction mixture was filtered and evaporated. The evaporated product was dissolved in acetone and evaporated to give a glassy solid.

reactant | (+,−) cis 7-Benzyloxy-4-[4-(morpholinoethyloxy)-phenyl]-3-phenyl-chroman | 0.27 mmol, 139 mg | C(C1=CC=CC=C1)OC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCN1CCOCC1 | C34H35NO4
solvent | hydrochloride | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | (+,−) cis 7-Hydroxy-4-[4-(morpholinoethyloxy)-phenyl]-3-phenyl-chroman | OC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCN1CCOCC1 | C27H29NO4
